US08563717B2
6-amino-2-(butyloxy)-9-{5-[1-(3-methylbutyl)-4-piperidinyl]pentyl}-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 14 from 2-(butyloxy)-8-(methyloxy)-9-[5-(4-piperidinyl)pentyl]-9H-purin-6-amine and 1-bromo-3-methylbutane.

reactant | 2-(butyloxy)-8-(methyloxy)-9-[5-(4-piperidinyl)pentyl]-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCCC1CCNCC1)OC)N | C20H34N6O2
reactant | 1-bromo-3-methylbutane | BrCCC(C)C | C5H11Br
product | 6-amino-2-(butyloxy)-9-{5-[1-(3-methylbutyl)-4-piperidinyl]pentyl}-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCCCC1CCN(CC1)CCC(C)C)=O | C24H42N6O2
